US08309593B2
Preparation of AI: (R)-benzyl 4-((R)-hydroxy(4-methoxyphenyl)methyl)-2,2-dimethyloxazolidine-3-carboxylate
1,2-dibromoethane (0.2 mL) was added slowly to a hot (65° C.) solution of magnesium turnings (0.91 g, 37 mmol) in THF (14 mL), followed by the dropwise addition of a solution of 4-bromo anisole (4 mL, 32 mmol) in THF (14 mL). The mixture was refluxed for 2 hours and then cooled to room temperature. The grignard solution was added dropwise to a suspension of CuI (6.8 g, 36 mmol) in a mixture of Me2S (20 mL)/THF (100 mL) at −78° C. The mixture was warmed slowly to −45° C. and stirred for 30 min keeping the temperature between −45 to −35° C. The mixture was cooled back to −78° C., and a solution of the Garner's aldehyde [(R)-benzyl 4-formyl-2,2-dimethyloxazolidine-3-carboxylate](3.20 g, 12.6 mmol) in THF (15 mL) was added dropwise. The mixture was stirred at low temperature overnight (15 h, T max=10° C.). The reaction mixture was quenched with NH4O (sat. 100 mL) and extracted with EtOAc (50 mL). The solvent was removed to dryness and the mixture was purified by column chromatography (SiO2, using a mixture of hexane/EtOAc/acetone) and the product was obtained as a colorless oil (1.697 g, 36% yield).

reactant | 1,2-dibromoethane | 0.2 mL | BrCCBr | C2H4Br2
reactant | magnesium | 37 mmol, 0.91 g | [Mg] | Mg
reactant | 4-bromo anisole | 32 mmol, 4 mL | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | Garner's aldehyde | 12.6 mmol, 3.20 g | CC1(N([C@@H](CO1)C=O)C(=O)OC(C)(C)C)C | C11H19NO4
reactant | THF | 14 mL | C1CCOC1 | C4H8O
reactant | THF | 14 mL | C1CCOC1 | C4H8O
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | Me2S | 20 mL | S(C)C | C2H6S
catalyst | CuI | 36 mmol, 6.8 g | [Cu]I
product | (R)-benzyl 4-((R)-hydroxy(4-methoxyphenyl)methyl)-2,2-dimethyloxazolidine-3-carboxylate | 1.697 g, 36% yield | O[C@@H]([C@@H]1N(C(OC1)(C)C)C(=O)OCC1=CC=CC=C1)C1=CC=C(C=C1)OC | C21H25NO5
